US07919488B2
N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N-methylcyclobutanecarboxamide
To a solution of 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine (150 mg, 0.37 mmol) in DCM (3 mL) at room temperature was added triethylamine (56 μL, 0.40 mmol) followed by cyclobutanecarbonyl chloride (42 μL, 0.37 mmol) and the solution stirred for 10 minutes. The solution was then loaded directly onto a pre-wetted Biotage 25M column for flash chromatography and eluted with 2-8% MeOH/DCM to yield the title compound as a white solid, 154 mg, 85%; 1H NMR (mix of rotomers, 400 MHz, DMSO-D6) δ ppm 8.52 (2 H, d, J=6.06 Hz), 7.66 (2 H, d, J=6.06 Hz), 7.30 (2 H, dd, J=8.46, 5.68 Hz), 7.15 (2 H, t, J=8.97 Hz), 6.52 (1 H, s), 5.08-5.33 (2 H, m), 4.42-4.57 (0.5 H, m), 4.38 (1 H, d, J=13.39 Hz), 3.95 (3 H, s), 3.64-3.79 (0.5 H, m), 3.36-3.48 (0.5 H, m), 3.24-3.34 (0.5 H, m), 3.03-3.20 (1 H, m), 2.55-2.76 (4 H, m), 2.01-2.28 (4 H, m), 1.39-1.99 (6 H, m); m/z (APCI+) for C28H32N5O2F 490.2 (M+H)+.

reactant | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine | 0.37 mmol, 150 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)NC)C2=CC=NC=C2)C=C1 | C23H26FN5O
reactant | triethylamine | 0.40 mmol, 56 μL | C(C)N(CC)CC | C6H15N
reactant | cyclobutanecarbonyl chloride | 0.37 mmol, 42 μL | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N-methylcyclobutanecarboxamide | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N(C(=O)C2CCC2)C)C2=CC=NC=C2)C=C1 | C28H32FN5O2
